US08486970B2
To a solution of 1.8 g of 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone oxime in 36 ml of methanol was added 500 mg of 10% palladium-carbon (50% wet) under an argon atmosphere, followed by stifling for 7 hours under a hydrogen atmosphere. After filtration through Celite, the filtrate was evaporated under reduced pressure to obtain 1.5 g of [6-(1-aminoethyl)pyridin-2-yl]methanol.

reactant | 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone oxime | 1.8 g | OCC1=CC=CC(=N1)C(C)=NO | C8H10N2O2
solvent | methanol | 36 ml | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | [6-(1-aminoethyl)pyridin-2-yl]methanol | 1.5 g | NC(C)C1=CC=CC(=N1)CO | C8H12N2O
